US05668161
Step 1 Preparation of 2-(4-bromophenyl) 3-(4-methylthiophenyl)propenoic acid:
A mixture of acetic anhydride (100 mL), 4-(methylthio)benzaldehyde (12.61 g, 82.8 mmol), 4-bromophenylacetic acid (17.79 g, 82.7 mmol), and triethylamine (8.48 g, 83.8 mmol) was heated to reflux for 4.25 hours. The reaction was cooled to 90° C., and water (100 mL) was added through an addition funnel. A yellow solid separated from the solution and was isolated by filtration and air dried and recrystallized from a mixture of ethyl acetate and isooctane to afford the acid (12.83 g, 44%): mp 187°-190° C. 1H NMR (acetone d6) 300 MHz 7.83 (s,1H), 7.57 (d, J=8.5Hz, 1H), 7.20 (d, J=8.5Hz, 2H), 7.10 (d, J=8.1Hz, 2H), 7.08 (d, J=8.1Hz, 1H), 2.46 (s, 3H). Mass spectrum M+ +H=350.

reactant | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(methylthio)benzaldehyde | 82.8 mmol, 12.61 g | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | 4-bromophenylacetic acid | 82.7 mmol, 17.79 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | triethylamine | 83.8 mmol, 8.48 g | C(C)N(CC)CC | C6H15N
solvent | water | 100 mL | O | H2O
product | 2-(4-bromophenyl) 3-(4-methylthiophenyl)propenoic acid | 12.83 g, 44% | BrC1=CC=C(C=C1)C(C(=O)O)=CC1=CC=C(C=C1)SC | C16H13BrO2S
